US06800640B2
A mixture of 2,2,2-trifluoro-N-(2-trimethylsilanylethynylpyridin-3-yl)acetamide (1.0 eq) and sodium ethoxide (5 eq.) in ethanol is heated at reflux temperature for 10 h, cooled and concentrated in vacuo. The resultant residue is purified by preparative reverse phase HPLC to give the title 4-azaindole.

reactant | 2,2,2-trifluoro-N-(2-trimethylsilanylethynylpyridin-3-yl)acetamide | 1.0 eq | FC(C(=O)NC=1C(=NC=CC1)C#C[Si](C)(C)C)(F)F | C12H13F3N2OSi
reactant | sodium ethoxide | 5 eq. | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-azaindole | N1C=CC2=NC=CC=C12 | C7H6N2
